US08859602B2
a) 2,2,6,6-Tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-one
To a solution of 2,2,6,6-tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-ol (780 mg, 3.25 mmol; J. Phys. Org. Chem., 16(3), 175-182 (2003)) in DCM (50 mL) Dess-Martin periodinane (1.6 g, 3.2 mmol; Adv. Syn. Catalysis, 346, 111-124 (2004)) was added portionwise at 0° C. The resulting mixture was stirred at RT for 48 h, diluted with satd NaHCO3 (50 mL) and was extracted with DCM (3×25 mL). The organic layers were combined, dried (Na2SO4) and concentrated in vacuo. The resulting oil was chromatographed on silica (10-50% EtOAc/hexane) to obtain the title compound 309 mg, 40%. Mass spectrum (ESI, m/z): Calcd. for C11H18F3N, 238.1 (M+H). found 238.0.

reactant | 2,2,6,6-tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-ol | 3.25 mmol, 780 mg | CC1(N(C(CC(C1)O)(C)C)CC(F)(F)F)C | C11H20F3NO
reactant | DCM | 3.2 mmol, 50 mL, 1.6 g | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | 2,2,6,6-Tetramethyl-1-(2,2,2-trifluoro-ethyl)-piperidin-4-one | 309 mg, 40% | CC1(N(C(CC(C1)=O)(C)C)CC(F)(F)F)C | C11H18F3NO
